US06855710B2
b) (Z)-3-{1-[4-(N-aminomethylcarbonyl-N-methyl-amino)phenylamino]-1-phenyl-methylidene}-5-nitro-2-indolinone
287 mg (0.5 mmol) of (Z)-3-{1-[4-(N-phthalimidomethylcarbonyl-N-methylamino)phenylamino]-1-phenyl-methylidene}-5-nitro-2-indolinone are suspended in 20 ml of ethanol and 20 ml of dichloromethane and after the addition of 0.3 ml of 80% hydrazine hydrate solution stirred for 18 hours at 50° C. The mixture is then cooled to ambient temperature, the insoluble matter is suction filtered and the mother liquor is concentrated by evaporation. The residue is chromatographed on silica gel (dichloromethane/methanol/ammonia=92:8:0.8) and the product is again triturated with methanol, suction filtered and dried.

reactant | (Z)-3-{1-[4-(N-phthalimidomethylcarbonyl-N-methylamino)phenylamino]-1-phenyl-methylidene}-5-nitro-2-indolinone | 0.5 mmol, 287 mg | C1(C=2C(C(N1CC(=O)N(C)C1=CC=C(C=C1)N\C(\C1=CC=CC=C1)=C\1/C(NC3=CC=C(C=C13)[N+](=O)[O-])=O)=O)=CC=CC2)=O | C32H23N5O6
reactant | dichloromethane | 20 ml | ClCCl | CH2Cl2
reactant | hydrazine hydrate | 0.3 ml | O.NN
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | (Z)-3-{1-[4-(N-aminomethylcarbonyl-N-methyl-amino)phenylamino]-1-phenyl-methylidene}-5-nitro-2-indolinone | NCC(=O)N(C)C1=CC=C(C=C1)N\C(\C1=CC=CC=C1)=C\1/C(NC2=CC=C(C=C12)[N+](=O)[O-])=O | C24H21N5O4
